US09169203B2
Step 2: Synthesis of hexyl 2-hydroxy-4-(methylsulfinyl)butanoate.
To a solution of hexyl 2-hydroxy-4-(methylthio)butanoate (5.03 g, 21.46 mmol) in dichloromethane at 0° C. was added m-chloroperoxybenzoic acid (mCPBA) portionwise over 20 min. The resulting mixture was allowed to warm to room temperature with stirring overnight. The reaction was washed with saturated sodium bicarbonate (3×100 mL), 1N HCl (1×80 mL), and brine (1×80 mL). The organic layer was dried over magnesium sulfate, filtered and evaporated to give ˜6 g of a crude oil. The oil was purified by silica gel chromatography with 0-6% methanol/dichloromethane to give an oil (4.10 g, 76%). 1H NMR (500 MHz, chloroform-d) δ ppm 0.89 (t, J=6.68 Hz, 3 H) 1.25-1.39 (m, 6 H) 1.67 (quin, J=6.99 Hz, 2 H) 2.05-2.17 (m, 1 H) 2.32-2.42 (m, 1 H) 2.56-2.63 (m, 3 H) 2.72-2.97 (m, 2 H) 3.34-3.44 (m, 1 H) 4.15-4.24 (m, 2 H) 4.26-4.36 (m, 1 H). m/z 251 (MH+).

reactant | hexyl 2-hydroxy-4-(methylthio)butanoate | 21.46 mmol, 5.03 g | OC(C(=O)OCCCCCC)CCSC | C11H22O3S
reactant | m-chloroperoxybenzoic acid | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
solvent | dichloromethane | ClCCl | CH2Cl2
product | hexyl 2-hydroxy-4-(methylsulfinyl)butanoate | 4.10 g, 76% | OC(C(=O)OCCCCCC)CCS(=O)C | C11H22O4S
